US07482347B2
4-Nitrophenylchloroformate (260 g, 1.30 mmol) as a solution in 500 ml dichloromethane (DCM) is added to Wang resin (p-benzyloxybenzyl alcohol resin ex Calbiochem-Novabiochem, 350 g, 0.60 mmol) suspended in 1000 ml DCM and N-methylmorpholine (196 ml, 1.79 mmol) and stirred at room temperature for 18 hours. The resin is filtered and washed successively using methanol, DCM and ether to give WANG PARA-NITROPHENOL RESIN. [IR. 1761.5 cm−1; Loading 1.20 mmol/g].

reactant | 4-Nitrophenylchloroformate | 1.30 mmol, 260 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | p-benzyloxybenzyl alcohol | C(C1=CC=CC=C1)OC1=CC=C(CO)C=C1 | C14H14O2
reactant | N-methylmorpholine | 1.79 mmol, 196 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | DCM | 1000 ml | ClCCl | CH2Cl2
product | PARA-NITROPHENOL | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
